US07563910B2
5-(2-Fluoro-5-trifluoromethyl-phenyl)-2-methyl-1-[(R)-1-(tetrahydro-furan-2-yl)methyl]-1H-pyrrole-3-carboxylic acid cyclohexylamide
The title compound was synthesized in analogy to example 7, using 3-oxo-butyric acid methyl ester as compound of formula R, 2-bromo-1-[2-fluoro-5-(trifluoromethyl)-phenyl]-ethanone as compound of formula S, (R)-tetrahydrofurfurylamine as R3—(CH2)m—NH2 and cyclohexylamine as R1R2NH, MS (ISP) 453.6 (M+H)+.

reactant | 3-oxo-butyric acid methyl ester | COC(CC(C)=O)=O | C5H8O3
reactant | 2-bromo-1-[2-fluoro-5-(trifluoromethyl)-phenyl]-ethanone | BrCC(=O)C1=C(C=CC(=C1)C(F)(F)F)F | C9H5BrF4O
reactant | (R)-tetrahydrofurfurylamine | C([C@H]1CCCO1)N | C5H11NO
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
product | 5-(2-Fluoro-5-trifluoromethyl-phenyl)-2-methyl-1-[(R)-1-(tetrahydro-furan-2-yl)methyl]-1H-pyrrole-3-carboxylic acid cyclohexylamide | C1(CCCCC1)NC(=O)C1=C(N(C(=C1)C1=C(C=CC(=C1)C(F)(F)F)F)C[C@@H]1OCCC1)C | C24H28F4N2O2
